US06413989B1
A solution of 1 g of (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-methoxyphenyl)-oxazolidin-2-one [obtainable by reaction of (5R)-(−)-5-(methanesulfonyloxymethyl)-3-p-methoxyphenyloxazolidin-2-one with 4- (4-fluorobenzyl)piperidine hydrochloride] in 25ml of dichloromethane is mixed with equimolar amounts of boron tribromide and stirred for 1 hour. Usual work-up gives (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-hydroxyphenyl)-oxazolidin-2-one,

reactant | (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-methoxyphenyl)-oxazolidin-2-one | 1 g | FC1=CC=C(CC2CCN(CC2)C[C@H]2CN(C(O2)=O)C2=CC=C(C=C2)OC)C=C1 | C23H27FN2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25ml | ClCCl | CH2Cl2
product | (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-hydroxyphenyl)-oxazolidin-2-one | FC1=CC=C(CC2CCN(CC2)C[C@H]2CN(C(O2)=O)C2=CC=C(C=C2)O)C=C1 | C22H25FN2O3
